US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride as starting compound and 6-bromo-1-(1 H-indol-3-yl)-1-hexanone were reacted and treated in the same manner as in Example 199 to give 4-amino-5-chloro-2-methoxy-N-((1-(6-(1H-indol-3-yl)-6-oxohexyl)-piperidin-4-yl)methyl)benzamide hydrochloride.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 6-bromo-1-(1 H-indol-3-yl)-1-hexanone | BrCCCCCC(=O)C1=CNC2=CC=CC=C12 | C14H16BrNO
product | 4-amino-5-chloro-2-methoxy-N-((1-(6-(1H-indol-3-yl)-6-oxohexyl)-piperidin-4-yl)methyl)benzamide hydrochloride | Cl.NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCC(=O)C2=CNC3=CC=CC=C23)C=C1Cl)OC | InChI=1S/C28H35ClN4O3.ClH/c1-36-27-16-24(30)23(29)15-21(27)28(35)32-17-19-10-13-33(14-11-19)12-6-2-3-9-26(34)22-18-31-25-8-5-4-7-20(22)25;/h4-5,7-8,15-16,18-19,31H,2-3,6,9-14,17,30H2,1H3,(H,32,35);1H
